US07423159B2
A mixture of 1-(2-bromoethyl)-4-nitrobenzene (18.7 g), pyrazole (5.53 g) and potassium hydroxide (4.56 g) was stirred at 140° C. for 8 min. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to give 1-[2-(4-nitrophenyl)ethyl]-1H-pyrazole (1.37 g, 8%) as crystals from a fraction eluted with hexane-ethyl acetate (1:2, v/v). Recrystallization thereof from ethyl acetate-hexane gave yellow prism crystals. melting point: 92-93° C.

reactant | 1-(2-bromoethyl)-4-nitrobenzene | 18.7 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | pyrazole | 5.53 g | N1N=CC=C1 | C3H4N2
reactant | potassium hydroxide | 4.56 g | [OH-].[K+]
solvent | water | O | H2O
product | 1-[2-(4-nitrophenyl)ethyl]-1H-pyrazole | 1.37 g, 8% | [N+](=O)([O-])C1=CC=C(C=C1)CCN1N=CC=C1 | C11H11N3O2
